US06677352B1
A mixture of 3,3-dianilino-1-[2,6-dichloro-4-(trifluoromethyl)-3-pyridinyl]-2-propen-1-one (12.9 g, 28.5 mmol) and t-BuOK (28.5 mL, 28.5 mmol, 1M in THF) in dioxane (200 mL) was heated at reflux overnight. The reaction was cooled, concentrated in vacuo, treated with saturated NH4Cl and extracted with EtOAc (3×). The combined organic extracts were washed with brine, dried over MgSO4, and concentrated in vacuo. Silica gel flash chromatography of the residue using 6:1 Hex:EtOAc provided 2-anilino-7-chloro-1-phenyl-5-(trifluoromethyl)-1,8-naphthyridin-4(1H)-one (11.2 g, 95%) as an off-white solid: LCMS RT: 3.00 min, MH+: 416.7, Rf=0.25 (3:1 Hex:EtOAc). This transformation can be accomplished by using the combination of other aprotic solvents such as DMF, and THF with other bases such as NaH.

reactant | 3,3-dianilino-1-[2,6-dichloro-4-(trifluoromethyl)-3-pyridinyl]-2-propen-1-one | 28.5 mmol, 12.9 g | N(C1=CC=CC=C1)C(=CC(=O)C=1C(=NC(=CC1C(F)(F)F)Cl)Cl)NC1=CC=CC=C1 | C21H14Cl2F3N3O
reactant | t-BuOK | 28.5 mmol, 1M, 28.5 mL | CC(C)(C)[O-].[K+]
solvent | dioxane | 200 mL | O1CCOCC1 | C4H8O2
product | 2-anilino-7-chloro-1-phenyl-5-(trifluoromethyl)-1,8-naphthyridin-4(1H)-one | 11.2 g, 95% | N(C1=CC=CC=C1)C=1N(C2=NC(=CC(=C2C(C1)=O)C(F)(F)F)Cl)C1=CC=CC=C1 | C21H13ClF3N3O
